US09303012B2
a) 2-Methyl-N-((1-methyl-1H-tetrazol-5-yl)methyl)propan-2-amine hydrochloride
A mixture of 2-methylpropan-2-amine (75-64-9, 281 mg, 404 μL, 3.85 mmol) and 5-(chloromethyl)-1-methyl-1H-tetrazole (57235-84-4, 100 mg, 754 μmol) was stirred at ambient temperature for 16 h and concentrated in vacuo to give the title compound (112 mg, 72%) as yellow solid; MS (EI): m/e=169 [M+].

reactant | 2-methylpropan-2-amine | 3.85 mmol, 404 μL, 281 mg | CC(C)(C)N | C4H11N
reactant | 5-(chloromethyl)-1-methyl-1H-tetrazole | 754 μmol, 100 mg | ClCC1=NN=NN1C | C3H5ClN4
product | 2-Methyl-N-((1-methyl-1H-tetrazol-5-yl)methyl)propan-2-amine hydrochloride | 112 mg, 72% | Cl.CC(C)(C)NCC1=NN=NN1C | InChI=1S/C7H15N5.ClH/c1-7(2,3)8-5-6-9-10-11-12(6)4;/h8H,5H2,1-4H3;1H
